US04248865
To a solution of 460 mg of (S)-(-)-3-hydroxy-2-piperidone [A. Hunter, Biochemical Journal, 35, 1298 (1941); mp. 170°-171° C., [α]D26 =-3.0°±0.1° (c=7.027, H2O)] in 6 ml of pyridine is added 2 ml of acetic anhydride, and the mixture is allowed to stand at room temperature overnight and concentrated under reduced pressure. The residue is crystallized from ether and then recrystallized from ether to give 560 mg of (S)-(-)-3-acetoxy-2-piperidone as pillar crystals in 89% yield.

reactant | (S)-(-)-3-hydroxy-2-piperidone | 460 mg | O[C@@H]1C(NCCC1)=O | C5H9NO2
reactant | H2O | O | H2O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (S)-(-)-3-acetoxy-2-piperidone | 560 mg, 89% yield | C(C)(=O)O[C@@H]1C(NCCC1)=O | C7H11NO3
